US08071586B2
F) {(S)-1-[((S)-3-Benzyloxy-1-methoxymethyl-propyl)-(2,2-dimethoxy-ethyl)-carbamoyl]-ethyl}-carbamic acid tert-butyl ester
To a solution of N-(tert-butoxycarbonyl)-L-alanine (1.12 g, 5.92 mmol) and ((S)-3-benzyloxy-1-methoxymethyl-propyl)-(2,2-dimethoxy-ethyl)-amine (1.60 g, 5.38 mmol) in N,N-dimethylformamide (16 mL) were added 4-methylmorpholine (1.63 g, 16.1 mmol) and O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (3.07 g, 8.06 mmol) at room temperature. The reaction mixture was stirred at room temperature was stirred at room temperature for 16 h, then partitioned between water and heptane/ethyl acetate 1:1. The organic layer was dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; heptane-ethyl acetate gradient) furnished the title compound (2.20 g, 87%). Colorless oil, MS (ISP)=469.4 (M+H)+.

reactant | N-(tert-butoxycarbonyl)-L-alanine | 5.92 mmol, 1.12 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)O | C8H15NO4
reactant | ((S)-3-benzyloxy-1-methoxymethyl-propyl)-(2,2-dimethoxy-ethyl)-amine | 5.38 mmol, 1.60 g | C(C1=CC=CC=C1)OCC[C@@H](COC)NCC(OC)OC | C16H27NO4
reactant | 4-methylmorpholine | 16.1 mmol, 1.63 g | CN1CCOCC1 | C5H11NO
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 8.06 mmol, 3.07 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 16 mL | CN(C=O)C | C3H7NO
product | {(S)-1-[((S)-3-Benzyloxy-1-methoxymethyl-propyl)-(2,2-dimethoxy-ethyl)-carbamoyl]-ethyl}-carbamic acid tert-butyl ester | 2.20 g, 87% | C(C)(C)(C)OC(N[C@@H](C)C(N(CC(OC)OC)[C@@H](CCOCC1=CC=CC=C1)COC)=O)=O | C24H40N2O7
